US04723018
94 ml of N-methylpyrrolidone was added to the 47.6 g (0.138 mol) of the 2-(p-bromophenyl)-5-octylpyridine. Then 19.3 g (0.216 mol) of copper (I) cyanide was added and the solution was refluxed for 2 hours. A mixture of 69 g of iron (II) chloride, 13.8 ml of concentrated hydrochloric acid and 69 ml of water was added to the mixture solution and the organic layer was extracted with chloroform. The extract was washed with a 10% aqueous solution of potassium hydroxide and then three times with water. Chloroform was removed by distillation. The residue was distilled under reduced pressure (210° to 220° C./2 mmHg) and recrystallized from methanol to obtain 33 g (0.1113 mol) of 2-(p-cyanophenyl)-5-octylpyridine.

reactant | N-methylpyrrolidone | 94 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-(p-bromophenyl)-5-octylpyridine | 0.138 mol, 47.6 g | BrC1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC | C19H24BrN
reactant | copper (I) cyanide | 0.216 mol, 19.3 g | [Cu]C#N
reactant | hydrochloric acid | 13.8 ml | Cl | ClH
catalyst | iron (II) chloride | 69 g | [Fe](Cl)Cl
solvent | water | 69 ml | O | H2O
product | 2-(p-cyanophenyl)-5-octylpyridine | 0.1113 mol, 33 g | C(#N)C1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC | C20H24N2
